US04937243
2-(1-Benzoylmercapto-2-[methylaminocarbonyl]ethyl)-4-methylpentanoic acid, tert-butyl ester (D11; 0.5 g) was treated with trifluoroacetic acid (10 ml) at 0° C. for 2h and evaporated to dryness in vacuo to give 2-(1-benzoylmercapto-2-[methylaminocarbonyl]ethyl)4-methylpentanoic acid.

reactant | 2-(1-Benzoylmercapto-2-[methylaminocarbonyl]ethyl)-4-methylpentanoic acid, tert-butyl ester | 0.5 g | C(C1=CC=CC=C1)(=O)SC(CC(=O)NC)C(C(=O)OC(C)(C)C)CC(C)C | C21H31NO4S
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(1-benzoylmercapto-2-[methylaminocarbonyl]ethyl)4-methylpentanoic acid | C(C1=CC=CC=C1)(=O)SC(CC(=O)NC)C(C(=O)O)CC(C)C | C17H23NO4S
